US04377695
8-(5-Chloro-2-oxo-benzoxazolin-3-yl)-caprylic acid methyl ester
The product is produced as described in example 1 from 3 g. of NaH (80% suspension in mineral oil), 17 g. of 5-chloro-benzoxazolin-2-one (produced in usual manners by subjecting 2-amino-4-chloro-phenol-hydrochloride to reaction with phosgene), 200 cc. of DMF, 23.7 g. of 8-bromo-caprylic acid methyl ester and 3 g. of NaJ.

reactant | NaH | [H-].[Na+]
reactant | 5-chloro-benzoxazolin-2-one | ClC=1C=CC2=C(NC(O2)=O)C1 | C7H4ClNO2
reactant | 8-bromo-caprylic acid methyl ester | COC(CCCCCCCBr)=O | C9H17BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-(5-Chloro-2-oxo-benzoxazolin-3-yl)-caprylic acid methyl ester | COC(CCCCCCCN1C(OC2=C1C=C(C=C2)Cl)=O)=O | C16H20ClNO4
